US07834021B2
2-(1,4-Dioxaspiro[4.5]dec-7-en-8-yl)-1,3-thiazole.
To a mixture of 8-(1,3-thiazol-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol (0.8 g, 3.32 mmol) in pyridine (10 mL) at 0° C. was added thionyl chloride (2.5 mL, 34.3 mmol) under N2. After being stirred for 2 h at 0° C. under N2, water and EtOAc were added. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with saturated NaCl, dried (MgSO4), concentrated and flash chromatographed using 10% EtOAc/hexane to give 0.27 g of the title compound in 36% yield. MS (EI) calcd: (M+1)+=224.1; found: 224.2.

reactant | 8-(1,3-thiazol-2-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 3.32 mmol, 0.8 g | S1C(=NC=C1)C1(CCC2(OCCO2)CC1)O | C11H15NO3S
reactant | thionyl chloride | 34.3 mmol, 2.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(1,4-Dioxaspiro[4.5]dec-7-en-8-yl)-1,3-thiazole | 0.27 g, 36% yield | O1CCOC12CC=C(CC2)C=2SC=CN2 | C11H13NO2S
